US05162315
Preparation of N-(2-aminoethyl)dodecanamide
A solution of 23 g of ethyl dodecanoate and 62.7 g of ethylenediamine in 100 ml of tetrahydrofuran (THF) was refluxed for 3 hours and the excess THF was distilled off. The reaction mixture was heated at 100° C. for 16 hours, cooled to room temperature, poured into cold water and extracted with ether. After drying, the organic solution was concentrated to give 15.7 g of crude product and this was recrystallized from ether-hexane to give 10.9 g of pure product, m.p. 64°-66° C.

reactant | ethyl dodecanoate | 23 g | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
reactant | ethylenediamine | 62.7 g | C(CN)N | C2H8N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2-aminoethyl)dodecanamide | 10.9 g | NCCNC(CCCCCCCCCCC)=O | C14H30N2O
